US06894050B2
Preparation of Intermediate (3-Chloro-benzyl)-carbamic acid tert-butyl ester (I-4d)
A solution of 3-chloro-benzylamine (0.25 mL, 2.05 mmol) and di-tert-butyl dicarbonate (0.47 mL, 2.1 mmol) in THF (10 mL) was stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo to a residue and chromatographed on Silica Gel (40 g) using 10% ethyl ccetate/hexanes as the eluant to the title compound I-4d (458 mg).

reactant | 3-chloro-benzylamine | 2.05 mmol, 0.25 mL | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | di-tert-butyl dicarbonate | 2.1 mmol, 0.47 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-Chloro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=CC=C1)Cl)=O | C12H16ClNO2
